US05352678
8-(1,3-Benzodioxol-5-yl)-1,4-dioxaspiro[4.5]decane
A mixture of 8-(1,3-benzodioxol-5-yl)-1,4dioxaspiro[4,5]dec-7-ene and 10% palladium on charcoal in ethanol was reacted as described in example 3 to give the product (91%, mp: 115°-116° C.). Calc'd for C15H18O4 : C, 68.69%; H, 6.92%. Found: C, 68.35%; H, 6.84%.

reactant | 8-(1,3-benzodioxol-5-yl)-1,4dioxaspiro[4,5]dec-7-ene | O1COC2=C1C=CC(=C2)C2=CCC1(OCCO1)CC2 | C15H16O4
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 8-(1,3-Benzodioxol-5-yl)-1,4-dioxaspiro[4.5]decane | 91% | O1COC2=C1C=CC(=C2)C2CCC1(OCCO1)CC2 | C15H18O4
